US08809525B2
5-Phenyl-6-(3,4,5-trifluorophenyl)-1,2,4-triazin-3-amine (131 mg, 37%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.30 g, 1.19 mmol) and 3,4,5-trifluorophenylboronic acid (0.23 g, 1.30 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.19 mmol, 0.30 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,4,5-trifluorophenylboronic acid | 1.30 mmol, 0.23 g | FC=1C=C(C=C(C1F)F)B(O)O | C6H4BF3O2
product | 5-Phenyl-6-(3,4,5-trifluorophenyl)-1,2,4-triazin-3-amine | 131 mg, 37% | C1(=CC=CC=C1)C=1N=C(N=NC1C1=CC(=C(C(=C1)F)F)F)N | C15H9F3N4
